US08633215B2
2-Dimethylaminomethyl-9-methoxythieno[2,3-c]isoquinolin-5(4H)-one hydrochloride
9-Methoxythieno[2,3-c]isoquinolin-5(4H)-one (Pellicciari, R., et al., Farmaco, 2003, 58, 851-858) (0.20 g, 0.86 mmol), was dissolved in a mixture of dry DMF (1 ml) and dry MeCN (2 ml) and treated with N,N-dimethyl(methylene)ammonium chloride (1.2 mmol) prepared according to a known procedure (Kinast, G. et al. Angew. Chem. Int. Ed. Engl. 1976, 15, 239-240. Bohme, H et al. Chem. Ber. 1960, 93, 1305). The reaction mixture was refluxed overnight. The formed solid was then filtered and washed with dry diethyl ether to give title compound (83% yield) as a solid. mp 264-265° C.

reactant | 9-Methoxythieno[2,3-c]isoquinolin-5(4H)-one | 0.86 mmol, 0.20 g | COC=1C=2C3=C(NC(C2C=CC1)=O)SC=C3 | C12H9NO2S
reactant | N,N-dimethyl(methylene)ammonium chloride | 1.2 mmol | [Cl-].C[N+](C)=C
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | MeCN | 2 ml | CC#N | C2H3N
product | 2-Dimethylaminomethyl-9-methoxythieno[2,3-c]isoquinolin-5(4H)-one hydrochloride | 83% yield | Cl.CN(C)CC1=CC2=C(NC(C=3C=CC=C(C23)OC)=O)S1 | InChI=1S/C15H16N2O2S.ClH/c1-17(2)8-9-7-11-13-10(5-4-6-12(13)19-3)14(18)16-15(11)20-9;/h4-7H,8H2,1-3H3,(H,16,18);1H
